### PR TITLE
[Merged by Bors] - feat: port CategoryTheory.DifferentialObject

### PR DESCRIPTION
**Pull request by int-y1**
---

todo:

* [x] `hasZeroMorphisms` tactic 'aesop' failed, failed to prove the goal after exhaustive search
* [x] `Hom.comm` defLemma linter
* [x] `DifferentialObject.d_squared` defLemma linter

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 1]
```diff
@@ -0,0 +1,368 @@
...
+  /-- The differential of a differential object. -/
+  d : pt ⟶ pt⟦(1 : ℤ)⟧
+  /-- The differential `d` satisfies that `d² = 0`. -/
+  d_squared' : d ≫ d⟦(1 : ℤ)⟧' = 0 := by aesop_cat -- Porting note: Originally `by obviously`
+#align category_theory.differential_object CategoryTheory.DifferentialObject
+
+-- Porting note : this resulted in a `INCORRECT DEF/LEMMA` liner error, so `Hom.comm` is
+-- made manually
+-- restate_axiom DifferentialObject.d_squared'
+
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:55]:
```suggestion
```
We're removing uses of `restate_axiom`. You can just rename the field of the structure to remove the prime.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 2]
```diff
@@ -0,0 +1,368 @@
...
+-- attribute [simp] DifferentialObject.d_squared
+
+variable {C}
+
+namespace DifferentialObject
+
+@[simp]
+lemma d_squared (X : DifferentialObject C) : X.d ≫ X.d⟦1⟧' = 0 := X.d_squared'
+
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:64]: Remove.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 3]
```diff
@@ -0,0 +1,368 @@
...
+  d : pt ⟶ pt⟦(1 : ℤ)⟧
+  /-- The differential `d` satisfies that `d² = 0`. -/
+  d_squared' : d ≫ d⟦(1 : ℤ)⟧' = 0 := by aesop_cat -- Porting note: Originally `by obviously`
+#align category_theory.differential_object CategoryTheory.DifferentialObject
+
+-- Porting note : this resulted in a `INCORRECT DEF/LEMMA` liner error, so `Hom.comm` is
+-- made manually
+-- restate_axiom DifferentialObject.d_squared'
+
+-- attribute [simp] DifferentialObject.d_squared
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:56]: Restore.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 4]
```diff
@@ -33,75 +33,96 @@ namespace CategoryTheory
...
-/-- A morphism of differential objects is a morphism commuting with the differentials.
--/
-@[ext, nolint has_nonempty_instance]
+@[simp]
+lemma d_squared (X : DifferentialObject C) : X.d ≫ X.d⟦1⟧' = 0 := X.d_squared'
+
+/-- A morphism of differential objects is a morphism commuting with the differentials. -/
+@[ext] -- Porting note: Removed `nolint has_nonempty_instance`
 structure Hom (X Y : DifferentialObject C) where
+  /-- the morphism between underlying objects of the two differentiable object -/
```
[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/CategoryTheory/DifferentialObject.lean:68]: I'm not averse to adding documentation, if it's done well. (Realistically we're comparing adding it now or not at all, rather than nor or later.)

However doc-strings should be complete senetences, so:
```suggestion
  /-- The morphism between underlying objects of the two differentiable objects. -/
```

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 5]
```diff
@@ -0,0 +1,368 @@
...
+     d
+  ```
+  -/
+  comm' : X.d ≫ f⟦1⟧' = f ≫ Y.d := by aesop_cat -- Porting note: Originally `by obviously`
+#align category_theory.differential_object.hom CategoryTheory.DifferentialObject.Hom
+
+-- Porting note : this resulted in a `INCORRECT DEF/LEMMA` liner error, so `Hom.comm` is
+-- made manually
+-- restate_axiom Hom.comm'
+-- attribute [reassoc (attr := simp)] Hom.comm
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:86]: As above.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 6]
```diff
@@ -0,0 +1,368 @@
...
+-- TODO: generalize to `HasShift C A` for an arbitrary `[AddMonoid A]` `[One A]`.
+variable [HasZeroMorphisms C] [HasShift C ℤ]
+
+/-- A differential object in a category with zero morphisms and a shift is
+an object `pt` equipped with
+a morphism `d : X ⟶ X⟦1⟧`, such that `d^2 = 0`. -/
+-- Porting note: Removed `@[nolint has_nonempty_instance]`
+structure DifferentialObject where
+  /-- The underlying object of a differential object. -/
+  pt : C
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:45]: I don't think `pt` is a good name. It was okay for (co)cones, but doesn't seem to make sense here. How about `obj`?

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 7]
```diff
@@ -0,0 +1,368 @@
...
+namespace CategoryTheory
+
+variable (C : Type u) [Category.{v} C]
+
+-- TODO: generalize to `HasShift C A` for an arbitrary `[AddMonoid A]` `[One A]`.
+variable [HasZeroMorphisms C] [HasShift C ℤ]
+
+/-- A differential object in a category with zero morphisms and a shift is
+an object `pt` equipped with
+a morphism `d : X ⟶ X⟦1⟧`, such that `d^2 = 0`. -/
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:41]: Use `pt`/`X`/whatever we choose consistently in the comments.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 8]
```diff
@@ -0,0 +1,368 @@
...
+variable (C)
+
+/-- The forgetful functor taking a differential object to its underlying object. -/
+def forget : DifferentialObject C ⥤ C where
+  obj X := X.pt
+  map f := f.f
+#align category_theory.differential_object.forget CategoryTheory.DifferentialObject.forget
+
+instance forget_faithful : Faithful (forget C) where
+  map_injective := Hom.ext _ _ -- Porting note: Added a definition for `map_injective`
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:138]: The problem is that you need to restate the `ext` lemma for `⟶` rather than `Hom`. Then `aesop_cat` will be able to fill in this field, as before.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 9]
```diff
@@ -0,0 +1,368 @@
...
+@[simps]
+def mkIso {X Y : DifferentialObject C} (f : X.pt ≅ Y.pt) (hf : X.d ≫ f.hom⟦1⟧' = f.hom ≫ Y.d) :
+    X ≅ Y where
+  hom := ⟨f.hom, hf⟩
+  inv := ⟨f.inv, by
+    dsimp
+    rw [← Functor.mapIso_inv, Iso.comp_inv_eq, Category.assoc, Iso.eq_inv_comp, Functor.mapIso_hom,
+      hf]⟩
+  hom_inv_id := by
+    apply Hom.ext -- Porting note: Originally `ext1`
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:189]: See above.

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 10]
```diff
@@ -0,0 +1,368 @@
...
+section
+
+/-- The shift by zero is naturally isomorphic to the identity. -/
+@[simps!]
+def shiftZero : shiftFunctor C 0 ≅ 𝟭 (DifferentialObject C) := by
+  refine' NatIso.ofComponents (fun X => mkIso ((shiftFunctorZero C ℤ).app X.pt) _) (fun f => _)
+  · erw [← NatTrans.naturality]
+    dsimp
+    simp only [shiftFunctorZero_hom_app_shift, Category.assoc]
+  · apply Hom.ext
```
Comment (semorrison) [inline Mathlib/CategoryTheory/DifferentialObject.lean:339]: Don't forget this one, even though there's no porting note! :-)

File: Mathlib/CategoryTheory/DifferentialObject.lean [hunk 11]
```diff
@@ -0,0 +1,368 @@
...
+def forget : DifferentialObject C ⥤ C where
+  obj X := X.pt
+  map f := f.f
+#align category_theory.differential_object.forget CategoryTheory.DifferentialObject.forget
+
+instance forget_faithful : Faithful (forget C) where
+  map_injective := Hom.ext _ _ -- Porting note: Added a definition for `map_injective`
+#align category_theory.differential_object.forget_faithful CategoryTheory.DifferentialObject.forget_faithful
+
+-- Porting note : `aesop(_cat)` can't solve `comp_zero` and `zero_comp`
```
[the remark this answers is not in the document]
Comment (Ruben-VandeVelde) [reply Mathlib/CategoryTheory/DifferentialObject.lean:123]: Unfortunately, this still doesn't work

[the remark this answers is not in the document]
Comment (semorrison) [reply Mathlib/CategoryTheory/DifferentialObject.lean]: Fixed now, just had to separate out the `Zero` instance so the `zero_f` lemma was available at the right time.

**Comment by semorrison** [comment]
bors d+

**Comment by semorrison** [comment]
bors merge
